US08076336B2
4-Trifluoromethyl-1,2-dihydropyridazin-3,6-dione
3-Trifluoromethylfuran-2,5-dione (5 g) was introduced in portions into an already boiling solution of hydrazine dihydrochloride (3.2 g) in water (50 ml). After stirring for 4 h, the mixture was left to stand overnight; the next day, the mixture was refluxed for a further 8 h and left to stand overnight. Then it was dried and the residue was purified by means of preparative chromatography (met. C). The clean fractions were combined, the ACN was drawn off and the residue was freeze-dried. 250 mg of the title compound were obtained. LC-MS rt: 0.23 min [M+H]+: 181.1 (met.b)

reactant | 3-Trifluoromethylfuran-2,5-dione | 5 g | FC(C=1C(OC(C1)=O)=O)(F)F | C5HF3O3
reactant | hydrazine dihydrochloride | 3.2 g | Cl.Cl.NN
solvent | water | 50 ml | O | H2O
product | 4-Trifluoromethyl-1,2-dihydropyridazin-3,6-dione | 250 mg | FC(C=1C(NNC(C1)=O)=O)(F)F | C5H3F3N2O2
